US07795282B2
Step B: Preparation of tert-butyl 3-(2-(3-(tert-butyldimethylsilyloxy)phenyl)-5-(2,5-difluorophenyl)-3-(hydrazinecarbonothioyl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate.
Tert-butyl 3-(2-(3-(tert-butyldimethylsilyloxy)phenyl)-5-(2,5-difluorophenyl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate (0.845 g, 1.50 mmol) was weighed into a 25 mL flask and suspended in 10 mL of anhydrous THF, followed by addition of thiocarbonyldiimidazole (0.294 g, 1.65 mmol). The reaction mixture was then heated to reflux for 3 hours. The reaction was cooled to room temperature, and then hydrazine (0.235 mL 7.50 mmol) was added and the reaction mixture was stirred for 4 hours at room temperature. The reaction mixture was concentrated, and the residue was loaded onto Biotage (flash column chromatography 10-50% ethyl acetate/hexanes) to provide 143 mg (80% purity) of the desired product.

reactant | Tert-butyl 3-(2-(3-(tert-butyldimethylsilyloxy)phenyl)-5-(2,5-difluorophenyl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | 1.50 mmol, 0.845 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1(SC(=NN1)C1=C(C=CC(=C1)F)F)CCCNC(OC(C)(C)C)=O | C28H39F2N3O3SSi
reactant | thiocarbonyldiimidazole | 1.65 mmol, 0.294 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | hydrazine | 7.50 mmol, 0.235 mL | NN | H4N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(2-(3-(tert-butyldimethylsilyloxy)phenyl)-5-(2,5-difluorophenyl)-3-(hydrazinecarbonothioyl)-2,3-dihydro-1,3,4-thiadiazol-2-yl)propylcarbamate | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)C1(SC(=NN1C(=S)NN)C1=C(C=CC(=C1)F)F)CCCNC(OC(C)(C)C)=O | C29H41F2N5O3S2Si
